### PR TITLE
Brownian motion has independent increments

### PR DESCRIPTION
**Pull request by EtienneC30**
Provide a predicate `HasLaw X P μ` stating that `X` is aemeasurable and `P.map X = μ`.
Provide a typeclass `HasGaussianLaw X P` stating `IsGaussian P.map X`. This allows to nicely provide integrability properties and rewrite characteristic functions.
Turn `IsGaussianProcess` into a typeclass, so that for example if `IsGaussianProcess X P` then `HasGaussianLaw (X t) P` is automatically inferred.

### CODE REVIEW

File: BrownianMotion/Gaussian/BrownianMotion.lean [hunk 1]
```diff
@@ -114,41 +114,118 @@ lemma memHolder_brownian (ω : ℝ≥0 → ℝ) (t : ℝ≥0) (β : ℝ≥0) (h
...
+  simp_rw [HasGaussianLaw.charFun_toLp, ← sum_sub_distrib, Complex.exp_sum,
+    HasGaussianLaw.charFun_map_real]
+  congrm ∏ i, Complex.exp (_ - ?_)
+  rw [Fintype.sum_eq_single i]
+  · simp [covariance_self, h1.aemeasurable.eval, pow_two, mul_div_assoc]
+  · exact fun j hj ↦ by simp [h2 i j hj.symm]
+
+/-- A process `X : T → Ω → E` has independent increments if for any `n ≥ 2` and `t₁ ≤ ... ≤ tₙ`,
+the random variables `X t₂ - X t₁, ..., X tₙ - X tₙ₋₁` are independent. -/
+def HasIndependentIncrements {Ω T E : Type*} {mΩ : MeasurableSpace Ω} [Sub E]
```
Comment (RemyDegenne) [inline BrownianMotion/Gaussian/BrownianMotion.lean:185]: Every definition about independence in Mathlib uses Indep instead of Indepedent, so for uniformity we should also shorten this one
```suggestion
def HasIndepIncrements {Ω T E : Type*} {mΩ : MeasurableSpace Ω} [Sub E]
```
